*sense amplifier

.include osu018.lib


M5 N002 sen vdd vdd CMOSP l=0.18u w=1.35u

M1 check check N002 N002 CMOSP l=0.18u w=0.45u

M2 amp_out check N002 N002 CMOSP l=0.18u w=0.9u

M3 check br gnd gnd CMOSN l=0.18u w=0.45u

M4 amp_out bl gnd gnd CMOSN l=0.18u w=0.45u

*inverter
M6 dout amp_out vdd vdd CMOSP l=0.18u w=0.9u
M7 dout amp_out gnd gnd CMOSN l=0.18u w=0.45u


V2 bl 0 PULSE(0 1.8V 0 100ps 100ps 10ns 20ns)

V3 br 0 PULSE(0 1.5V 0 100ps 100ps 10ns 20ns)

V1 vdd gnd 1.8V

V4 sen 0 PULSE(0 1.8V 0 10ps 10ps 50ns 100ns)

.tran 10e-09 100e-09 0e-09

* Control Statements 
.control
run

plot v(sen)+4 v(bl)+2 v(br)
plot v(dout)

.endc
.end
